US06630598B2
Production of N-t-butoxycarbonyl-2-nitroaniline
1.30 g of sodium hydride (60% content, 2.2 moles per mol of the nitroaniline compound) was suspended in 20.24 g of tetrahydrofuran and cooled with ice. To the obtained suspension, 22.20 g of a tetrahydrofuran solution containing 2.00 g of 2-nitroaniline was added, stirred for 10 minutes, allowed to stand at room temperature and stirred for 30 minutes. To the obtained mixture, 6.92 g of a tetrahydrofuran solution containing 3.41 g of di-t-butyl dicarbonate was added at room temperature and stirred for 2 hours. The reaction mixture was added to ice water and extracted with toluene to separate an organic layer and then the organic layer was analyzed by high performance liquid chromatography and the yield of the desired product was found to be 96%.

reactant | sodium hydride | 1.30 g | [H-].[Na+]
reactant | nitroaniline | [N+](=O)([O-])NC1=CC=CC=C1 | C6H6N2O2
reactant | 2-nitroaniline | 2.00 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | di-t-butyl dicarbonate | 3.41 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 20.24 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6.92 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 22.20 g | O1CCCC1 | C4H8O
product | N-t-butoxycarbonyl-2-nitroaniline | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)[N+](=O)[O-] | C11H14N2O4
